US07842810B2
6-{2-[2-(6-Methoxy-quinolin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-acetyl}-4H-benzo[1,4]oxazin-3-one
To a solution of 2-(6-methoxy-quinolin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine (50 mg, 0.2 mmol) in DMF (0.5 mL) was added 6-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one (0.05 g, 0.22 mmol) and Et3N (0.033 mL, 0.22 mmol). The reaction was heated to 50° C. and stirred for 12 h. The crude was purified directly by basic reverse phase HPLC to afford 0.8 mg (10%) of the title compound. HPLC: Rt=5.50 min. MS (ESI): exact mass calculated for C27H25N5O4, 483.19; m/z found, 484.5 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.78 (d, J=4.7, 1H), 8.06 (d, J=9.1, 1H), 7.69-7.61 (m, 3H), 7.42 (d, J=2.6, 1H), 7.40 (dd, J=9.1, 2.6, 1H), 7.32 (d, J=4.7, 1H), 7.04 (d, J=8.9, 1H), 4.70 (s, 2H), 4.21 (s, 1H), 3.89 (s, 3H), 3.11-2.80 (m, 5H), 2.62-2.58 (m, 1H), 2.26-2.17 (m, 1H), 1.93-1.86 (m, 1H).

reactant | 2-(6-methoxy-quinolin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamine | 0.2 mmol, 50 mg | COC=1C=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)N | C17H18N4O
reactant | 6-(2-chloro-acetyl)-4H-benzo[1,4]oxazin-3-one | 0.22 mmol, 0.05 g | ClCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C10H8ClNO3
reactant | Et3N | 0.22 mmol, 0.033 mL | CCN(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-{2-[2-(6-Methoxy-quinolin-4-yl)-4,5,6,7-tetrahydro-2H-indazol-5-ylamino]-acetyl}-4H-benzo[1,4]oxazin-3-one | 0.8 mg, 10% | COC=1C=C2C(=CC=NC2=CC1)N1N=C2CCC(CC2=C1)NCC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C27H25N5O4
